US05098602
Synthesis of 3-fluoro-4-methoxyacetophenone
To a solution of 700 ml of dried methylene chloride and 157 g of acetyl chloride was added dropwise 267 g of anhydrous aluminum chloride over 30 minutes with stirring while holding temperature at 15°-25° C., which were further stirred at room temperature for about 2 hours. Separately, a solution of 206 g of o-fluoroanisole and 170 ml of dried methylene chloride was cooled on an ice water bath, to which was added dropwise the previously prepared solution of acetyl chloride and aluminum chloride in methylene chloride over about 2.5 hours. The resulting mixture was further stirred on the ice water bath for 1 hour and at room temperature for 1 hour. The resulting reaction mixture was poured into 1.4 l of ice water and separated into two layers. The extraction with 400 ml of methylene chloride on aqueous layer was repeated two times, and thereafter the organic layers were gathered, washed with water and dried on magnesium sulfate. After magnesium sulfate was filtered off, the filtrate was concentrated and dried to obtain a light brown crystal. This crystal was recrystallized with ethanol to obtain 242 g (yield: 88%) of a white crystal having a melting point of 89.5°-90.0° C.

reactant | acetyl chloride | 157 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 267 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-fluoroanisole | 206 g | FC1=C(C=CC=C1)OC | C7H7FO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 170 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | 3-fluoro-4-methoxyacetophenone | 242 g, yield: 88% | CC(=O)C1=CC(=C(C=C1)OC)F | C9H9FO2
